US09079866B2
{[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}acetic acid
The title compound was prepared in a manner similar to that described in Example 88 using 2-(2-bromophenoxy)acetic acid and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C18H14FN3O3, 339.10; m/z found, 339.9 [M+H]+. 1H NMR (400 MHz, DMSO-d6) δ 8.46 (d, J=1.4, 2H), 7.71 (d, J=13.3, 1H), 7.51 (d, J=5.7, 2H), 7.29 (dd, J=7.5, 1.7, 1H), 7.25-7.17 (m, 1H), 6.92-6.89 (m, 1H), 6.88-6.80 (m, 3H), 4.14 (s, 2H).

reactant | 2-(2-bromophenoxy)acetic acid | BrC1=C(OCC(=O)O)C=CC=C1 | C8H7BrO3
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | {[4′-(2-Aminopyrimidin-5-yl)-3′-fluorobiphenyl-2-yl]oxy}acetic acid | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C1=C(C=CC=C1)OCC(=O)O)F | C18H14FN3O3
